US06734205B2
[2-[[[Amino(imino)methyl]amino]carbonyl]-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]methylphosphonic acid hydrobromide (1.37 g, 2.87 mmol) was suspended in distilled water (50 ml), followed by adding thereto a 1.0N aqueous sodium hydroxide solution (8.62 ml, 8.62 mmol) to effect dissolution and adjust the pH to about 11, and the insoluble material was removed by filtration. The filtrate was adjusted to pH 5 to 6 with a 1.0N aqueous hydrochloric acid solution (5.75 ml, 5.75 mmol), and the white solid precipitated was collected by filtration. The white solid obtained was washed with water and then dried under reduced pressure to obtain 1.10 g of [2-[[[amino(imino)methyl]-amino]carbonyl]-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]methyl-phosphonic acid as a white solid.

reactant | [2-[[[Amino(imino)methyl]amino]carbonyl]-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]methylphosphonic acid hydrobromide | 2.87 mmol, 1.37 g | Br.NC(=N)NC(=O)C=1N(C2=CC(=CC(=C2C1)C(F)(F)F)CP(O)(O)=O)C
reactant | sodium hydroxide | 8.62 mmol, 1.0N, 8.62 ml | [OH-].[Na+]
reactant | hydrochloric acid | 5.75 mmol, 1.0N, 5.75 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | [2-[[[amino(imino)methyl]-amino]carbonyl]-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]methyl-phosphonic acid | 1.10 g | NC(=N)NC(=O)C=1N(C2=CC(=CC(=C2C1)C(F)(F)F)CP(O)(O)=O)C | C13H14F3N4O4P
